US08912207B2
To a solution of (2-fluorobenzyl)-(5-fluoro-2-methylsulfanylpyrimidin-4-yl)amine (2.10 g, 7.86 mmol) in MeOH (26 mL) was added a solution of OXONE™ (10.14 g, 16.5 mmol) in H2O (52 mL) dropwise over a 20 min period at −45° C., and the resulting mixture was slowly warmed to 10° C. over a period of 14 h. The mixture was treated with sodium bisulfite (−3 g) and the majority of the MeOH was removed on the rotary evaporator. The aqueous residue was extracted with EtOAc (3×150 mL), and the organic extracts were combined, washed with brine (100 mL), dried over Na2SO4, filtered, and concentrated to give a peach solid. The solid was purified by flash chromatography (40 g SiO2; 0→100% EtOAc/hexanes) to give 2-fluorobenzyl-(5-fluoro-2-methanesulfonylpyrimidin-4-yl)amine (1.99 g, 85%) as a white solid: mp 105-107° C.; 1H NMR (400 MHz, CDCl3) δ 8.10 (d, J=2.9 Hz, 1H), 7.46 (td, J=7.6, 1.7 Hz, 1H), 7.31 (m, 1H), 7.14 (td, J=7.5, 1.1 Hz, 1H), 7.08 (m, 1H), 5.89 (s, 1H), 4.82 (d, J=6.0 Hz, 2H), 3.25 (s, 3H); CIMS m/z 299 ([M]+).

reactant | (2-fluorobenzyl)-(5-fluoro-2-methylsulfanylpyrimidin-4-yl)amine | 7.86 mmol, 2.10 g | FC1=C(CNC2=NC(=NC=C2F)SC)C=CC=C1 | C12H11F2N3S
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | sodium bisulfite | −3 g | S([O-])(O)=O.[Na+]
reactant | MeOH | 26 mL | CO | CH4O
solvent | H2O | 52 mL | O | H2O
product | 2-fluorobenzyl-(5-fluoro-2-methanesulfonylpyrimidin-4-yl)amine | 1.99 g, 85% | FC1=C(CNC2=NC(=NC=C2F)S(=O)(=O)C)C=CC=C1 | C12H11F2N3O2S
